US03947446
Preparation of 4-(2-Chlorophenyl)-1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-prop-1-yl]-piperazine
4-(2-methylthiophenyl)-1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-prop-1-yl]-piperazine from 1-(5,6,7,8-tetrahydronaphth-1-yloxy)-3-bromopropane and 1-(2-methylthiophenyl)-piperazine; yield 64% of theory; m.p. of the hydrochloride 224°-225°C. decomp.); 4-(3-trifluoromethylphenyl)-1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-prop-1-yl]-piperazine from 1-(5,6,7,8-tetrahydro-napth-1-yloxy)-3-bromopropane and 1-(3-trifluoromethylphenyl)-piperazine; yield 84% of theory; m.p. of the dihydrochloride: 182°-183°C.

reactant | 4-(2-methylthiophenyl)-1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-prop-1-yl]-piperazine | CSC1=C(C=CC=C1)N1CCN(CC1)CCCOC1=CC=CC=2CCCCC12 | C24H32N2OS
reactant | 1-(5,6,7,8-tetrahydronaphth-1-yloxy)-3-bromopropane | C1(=CC=CC=2CCCCC12)OCCCBr | C13H17BrO
reactant | 1-(2-methylthiophenyl)-piperazine | CSC1=C(C=CC=C1)N1CCNCC1 | C11H16N2S
reactant | hydrochloride | Cl | ClH
reactant | 4-(3-trifluoromethylphenyl)-1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-prop-1-yl]-piperazine | FC(C=1C=C(C=CC1)N1CCN(CC1)CCCOC1=CC=CC=2CCCCC12)(F)F | C24H29F3N2O
reactant | 1-(3-trifluoromethylphenyl)-piperazine | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 4-(2-Chlorophenyl)-1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-prop-1-yl]-piperazine | ClC1=C(C=CC=C1)N1CCN(CC1)CCCOC1=CC=CC=2CCCCC12 | C23H29ClN2O
